US08492550B2
Step 5: 1-(1-(4-Chlorophenyl)piperidin-4-yl)-2-nitrobutan-1-ol
A mixture of 1-(4-chlorophenyl)piperidine-4-carbaldehyde (157 mg, 0.7 mmol), 1-nitropropane (0.125 mL, 1.400 mmol), 0.025 M NaOH (2 mL) and MeOH (1 mL) was treated with 25% aqueous cetyltrimethylammonium chloride (0.139 mL, 0.105 mmol). The reaction mixture was sonicated at RT for 4 h, and then stirred at RT for 14 h. After this time, the mixture was treated with brine and extracted with diethyl ether. The extract was dried over MgSO4 and concentrated to yield a residue. The residue was purified by flash chromatography on silica gel, eluting with 15-25% EtOAc/hexanes to give the diastereomeric mixture (2:1 more polar/less polar on reverse-phase HPLC) of the title compound (75 mg, 0.240 mmol, 34.3% yield) as a clear oil. LC-MS: (Waters Sunfire C18 4.6 mm×50 mm) 313.20, [M+H]; tR=1.95 min, 2.21 min; 10%-90%-0.1% MeOH/H2O/TFA to 90%-10%-0.15 MeOH/H2O/TFA at 1n 4 min 4 mL/min flow rate. 1H-NMR (400 MHz, CD3OD) δ ppm 7.05-7.11 (2H, m), 6.81-6.87 (2H, m), 4.42-4.51 (1H, m), 3.67 (2H, dd, J=7.36, 3.84 Hz), 3.61 (3H, d, J=11.42 Hz), 2.51-2.62 (3H, m), 1.81-1.91 (2H, m), 1.58-1.64 (3H, m), 1.51-1.56 (2H, m).

reactant | 1-(4-chlorophenyl)piperidine-4-carbaldehyde | 0.7 mmol, 157 mg | ClC1=CC=C(C=C1)N1CCC(CC1)C=O | C12H14ClNO
reactant | 1-nitropropane | 1.400 mmol, 0.125 mL | [N+](=O)([O-])CCC | C3H7NO2
reactant | NaOH | 0.025 M, 2 mL | [OH-].[Na+]
reactant | MeOH | 1 mL | CO | CH4O
catalyst | cetyltrimethylammonium chloride | 0.105 mmol, 0.139 mL | [Cl-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
solvent | brine | [Cl-].[Na+].O
product | 1-(1-(4-Chlorophenyl)piperidin-4-yl)-2-nitrobutan-1-ol | 0.240 mmol, 75 mg, 34.3% yield | ClC1=CC=C(C=C1)N1CCC(CC1)C(C(CC)[N+](=O)[O-])O | C15H21ClN2O3
